US08431713B2
Step G: Preparation of tert-butyl 4-(chloro(hydroxyimino)methyl)piperidine-1-carboxylate:
tert-Butyl 4-((hydroxyimino)methyl)piperidine-1-carboxylate (2.0 g, 8.8 mmol) in DMF (100 mL) was charged with 1-chloropyrrolidine-2,5-dione (1.2 g, 8.8 mmol). The reaction stirred at ambient temperature overnight. The material was poured into a 1:1 brine:water mixture and the resultant solution was extracted with ethyl acetate. The organic layer was wash twice with water, dried, and concentrated to afford the title compound (2.3 g, 100%).

reactant | tert-Butyl 4-((hydroxyimino)methyl)piperidine-1-carboxylate | 8.8 mmol, 2.0 g | ON=CC1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O3
reactant | 1-chloropyrrolidine-2,5-dione | 8.8 mmol, 1.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | tert-butyl 4-(chloro(hydroxyimino)methyl)piperidine-1-carboxylate | 2.3 g, 100% | ClC(C1CCN(CC1)C(=O)OC(C)(C)C)=NO | C11H19ClN2O3
